US07605176B2
VI.1.a: (2-chloro-4-nitrophenyl)acetic acid chloride
8.10 g (37.6 mmol) of (2-chloro-4-nitrophenyl)acetic acid is suspended in 40 mL of thionyl chloride and refluxed for 2 hours. The product is reacted further without any more purification. Crude yield: 8.80 g (100% of theory); C8H5Cl2NO3.

reactant | (2-chloro-4-nitrophenyl)acetic acid | 37.6 mmol, 8.10 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6ClNO4
reactant | thionyl chloride | 40 mL | S(=O)(Cl)Cl | Cl2OS
product | (2-chloro-4-nitrophenyl)acetic acid chloride | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)Cl | C8H5Cl2NO3
